2192-02-16 11:05:00 Physician Attending Progress Note
Chief Complaint: Coma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2192-2-16**] 04:18 AM
   -Norepinephrine started for significant hypotension
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Clindamycin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-2-16**] 10:15 AM
   Vancomycin - [**2192-2-16**] 10:25 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-2-16**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.1
   Nutritional Support: NPO
   Heme / Lymph: No(t) Anemia
   Pain: Unable to answer
   Flowsheet Data as of  [**2192-2-16**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**93**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 73 (73 - 80) bpm
   BP: 93/30(45) {93/30(45) - 123/59(71)} mmHg
   RR: 18 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 60 kg
             Total In:
             4,837 mL
   PO:
             TF:
   IVF:
   1,337 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    800 mL
   Urine:
   800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,037 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Patient without significant response to voice and no
   obvious withdrawl to pain--she has decorticate posture on exam with
   painful stimuli in upper torso.  Her reflexes are diminished
   bilaterally.   She has flexor posturing with testing for babinski
   response, Pupils are equal and reactive to light.
   Labs / Radiology
   12.0 g/dL
   179 K/uL
   291 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.5 mEq/L
   14 mg/dL
   107 mEq/L
   141 mEq/L
   37.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2192-2-16**]  05:42 AM
   WBC
   12.2
   Hct
   37.2
   Plt
   179
   Cr
   0.7
   TropT
   <0.01
   Glucose
   291
   Other labs: PT / PTT / INR:12.3/25.4/1.0, CK / CKMB /
   Troponin-T:378/6/<0.01, ALT / AST:/79, Alk Phos / T Bili:71/0.4,
   Differential-Neuts:76.6 %, Lymph:15.9 %, Mono:7.0 %, Eos:0.1 %, Lactic
   Acid:1.5 mmol/L, LDH:209 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Fluid analysis / Other labs: CXF-
   Gluc-184
   WBC-1
   RBC-1
   Imaging: CT Head-no edema, no blood
   CXR-Normal lung volumes, no focal infiltrate.
   Assessment and Plan
   62 yo female with history of bipolar d/o and now found outside of home
   with unresponsive state.  Patient to [**Hospital1 **] for evaluation where son
   noted patient was well the day prior.  At [**Hospital1 **] patient with
   hyperglycemia and negative CT/LP and patient to [**Hospital1 5**] for further care
   following 1g of Dilantin.  She has remained with persistent altered
   mental status and to this point remains unresponsive.  Vanco/Zosyn/CTX
   was given and patient admitted to ICU for further care.
   1) ALTERED MENTAL STATUS/COMA
She has impaired and persistent coma
   noted at this time.  This raises concern for diffuse cortical insult
   which has not been seen with tox screen, LP, look for systemic
   infection which have not been revealing.  This would leave possible
   pontine level infarct as driver of insult with non-convulsive status
   being second most likely insult.
   -MRI this morning
   -EEG this morning
   -Will move to treatment for seizures  based on EEG findings and
   clinical response but would like to defer on treatment for seizures
   until EEG completed.
   2) HYPOTENSION (NOT SHOCK)-_This may be hypovolemic but perhaps
   vasodilatory in the setting of severe neurologic insult consistent with
   neurogenic shock is most likely.
   -Levophed as needed
   -Fluid bolus as needed
   -Empiric antibiotics reasonable
   3)Aspiraiton
patient at risk for aspiration event with altered mental
   status and will have to continue to suction frequently and maintain
   adequate airway protection.
   ICU Care
   Nutrition: NPO this morning
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-2-16**] 04:18 AM
will need to be changed but was
   placed at [**Hospital1 5**]
   18 Gauge - [**2192-2-16**] 04:21 AM
   Prophylaxis:
   DVT: Sq Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE until clarified
   Disposition :ICU
   Total time spent: 45

2192-02-17 07:44:00 Physician Resident Progress Note
Chief Complaint: CC: Unresponsive
   [**Hospital Unit Name 4**] Admission: Unresponsive
   24 Hour Events:
   -neuro recs: EEG, f/u CSF studies from OSH, supportive treatment for
   possible serotonin syndrome for now: SaO2  > 94%, euvolemia,
   normotension for now, if all other causes are ruled out, can reconsider
   diagnosis.
   -f/u final MRI head read (looking for pontine infarct that may lead to
   similar presentation). Prelim: No [**Known lastname **] infarction, or mass.
   -Per neuro, EEG without e/o seizure. But will start dilantin 100 IV
   TID.
   -Tox c/s: ED attending was tox attdg so they had nothing else to
   provide as recs.
   -Called [**Hospital1 **] re: cultures. No blood or urine cltxs done. CSF gram
   stain: 0-3 WBCs, no organisms, Gluc 184, Protein 36, NGTD.  Also sent
   CSF for Herpes PCR, pending.
   -Of note, pt diagnosed with Hep C on [**12-3**]: HCV Ab reactive, HCV RNA:
   2,120,270; HCV log10: 6.326. HIV negative on [**2192-2-15**]. Per [**Hospital1 3212**]
   note dated [**2191-12-23**], pt was started on tenofovir and emtircitabine x1
   month for HIV ppx after sexual assault.
   -Pt aspirated around 1400, stat CXR c/w increased opacity RLL (PNA vs
   pleural effusion), desated so suctioned and placed on nonrebreather
   with O2 sat at 100%. However, given concern for airway protection, pt
   was intubated without complications at 1600.
   -Code status confirmed with son: pt is FULL CODE.
   -Dilantin level 7.8 (goal 15-20); per neuro, pt given 750 mg IV
   dilantin at 9 PM. Recheck trough at 3:30 AM prior to 4 AM dose.
   -24 hr EEG, ammonia level (wnl), and lamictal level (pending) per PM
   neuro recs.
 MAGNETIC RESONANCE IMAGING - At [**2192-2-16**] 08:33 AM
 INVASIVE VENTILATION - START [**2192-2-16**] 04:15 PM
   Allergies:
   Clindamycin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-2-16**] 10:15 AM
   Vancomycin - [**2192-2-16**] 08:00 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-2-17**] 01:00 AM
   Dilantin - [**2192-2-17**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-2-17**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-2-17**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**93**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 71 (64 - 94) bpm
   BP: 117/54(68) {73/21(32) - 180/59(94)} mmHg
   RR: 19 (14 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 60 kg
             Total In:
                                                                  6,487 mL
                                                                    196 mL
   PO:
             TF:
   IVF:
                                                                  2,987 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    270 mL
   Urine:
                                                                  1,745 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,742 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 490 (490 - 629) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 66
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.39/42/148/28/0
   Ve: 10 L/min
   PaO2 / FiO2: 296
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   11.3 g/dL
   223 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.1 mEq/L
   11 mg/dL
   110 mEq/L
   143 mEq/L
   33.4 %
   11.0 K/uL
        [image002.jpg]
   Differential-Neuts:76.6 %, Lymph:15.9 %, Mono:7.0 %, Eos:0.1 %, Lactic
   Acid:1.8 mmol/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:1.2 mg/dL
                             [**2192-2-16**]  05:42 AM
                             [**2192-2-16**]  06:59 PM
                             [**2192-2-17**]  03:22 AM
   WBC
   12.2
   11.0
   Hct
   37.2
   33.4
   Plt
   179
   144
   Cr
   0.7
   0.6
   TropT
   <0.01
   TCO2
   26
   Glucose
   291
   229
   223
   Other labs:
   PT / PTT / INR:12.5/32.2/1.1,
   CK / CKMB / Troponin-T:378/6/<0.01,
    ALT / AST:127/79,
   Alk Phos / T Bili:71/0.4,
   Amylase / Lipase:61/31,
   LDH:209 IU/L
   TSH:0.42
   Vit-B12:825
   Folate:>20
   Phenytoin: 14.5
   Lithium 0.3*
   Micro:
   [1][**2192-2-16**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [2][**2192-2-16**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [3][**2192-2-16**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [4][**2192-2-16**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   MRI Head (wet read):
   No [**Known lastname **] infarction, or mass
   CXR [**2-16**]:
   Exam is limited by respiratory motion. Even within this limitation,
   there has
   been a change in the appearance of the lower right hemithorax with a
   new area
   of increased opacity obscuring the right heart border as well as new
   blunting
   of the right costophrenic sulcus. Observed findings are likely due to a
   combination of right middle lobe atelectasis and a right pleural
   effusion.
   There is likely a component of atelectasis involving the right lower
   lobe as
   well. Cardiomediastinal contours are grossly unchanged, and previously
   reported interstitial edema appears similar in the interval as well.
   When the
   patient's condition allows, a repeat radiograph with suspended
   inspiration
   would be helpful for more complete assessment of these findings.
   CXR [**2-16**] #2:
   IMPRESSION: Successful intubation without evidence of pneumothorax. NG
   position unremarkable. Previously suspected right-sided pleural
   effusion not
   progressing and mostly resolved.
   Assessment and Plan
   Ms. [**Known lastname **] is a 62 year old female with diabetes, HTN, HL, bipolar
   disorder with multiple prior suicide attempts from medication overdoses
   who is admitted with altered mental status.
   .
   #.  Altered mental status.  Unclear etiology.  MRI showed no infarct.
   LP results from OSH unremarkable.  All tox screens negative.  Hepatitis
   C positive, but ammonia normal. Currently undergoing 24-hr EEG with
   dilantin load for possible intermittent seizures. As she is now
   intubated and sedated it is difficult to follow her exam
   - neuro recs
   - f/u EEG
   - f/u culture data
   - periodically wean sedation to assess mental status
   - empiric antibiotics
   .
   #. Aspiration Pneumonia
 Patient had an aspiration event yesterday,
   and was intubated for airway safety.  Spiked T of 100.4 yesterday
   afternoon, afebrile since.
   - consider broadening coverage given intubated on vent, in ICU,
   ceftriaxone to zosyn.
   - CXR
   .
   #.  Hypotension.  Differential for hypotension is hypovolemic versus
   septic.  She is positive 4L since admission, still on levophed.  Good
   UOP.
   - IVF boluses
   - antibiotics as above
   - wean levophed as tolerated
   - follow urine output
   - hold home lisinopril
   .
   3.  Elevated lactate.  Elevated lactate raises the possibility of an
   infection infectious workup is negative thus far.  Also, could be
   secondary to seizure activity.
   - trend lactate
   - IVFs boluses prn
   - empiric antibiotics with ceftriaxone/vanco pending culture data
   .
   4.  Hyperglycemia.  Patient presented with hyperglycemia to 450 which
   has responded to insulin.  No evidence of DKA.
   - HISS
   - follow fingersticks
   - hold actos, glyburide, metformin
   .
   5.  Bipolar disorder.  Patient has a history of bipolar disorder, on
   disability.  Multiple prior overdoses with medications.
   - hold lexapro
   .
   6.  Hepatitis C.  Patient with ALT of 142, AST 83, with normal
   albumin.  INR normal at OSH.  Per son, this is a recent diagnosis.
   LFTs stable yesterday.  Ammonia normal. No evidence of cirrhosis by
   labs or on exam.
   - trend LFTs
   .
   7.  Hyperlipidemia.
   - hold simvastatin given elevated LFTs and inability to take POs
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-2-16**] 04:18 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_49%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_50%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_51%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_52%22,640,400,50,50,1);

2192-02-17 11:04:00 Physician Attending Progress Note
Chief Complaint: Coma
   Respiratory Failure
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2192-2-16**] 08:33 AM
 INVASIVE VENTILATION - START [**2192-2-16**] 04:15 PM
   -Patient with persistent and worsening aspiration, hypoxia and
   continued altered mental status requiring intubation.
   -EEG started
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Clindamycin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-2-17**] 08:05 AM
   Vancomycin - [**2192-2-17**] 08:30 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-2-17**] 01:00 AM
   Dilantin - [**2192-2-17**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-2-17**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Flowsheet Data as of  [**2192-2-17**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**93**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 68 (65 - 94) bpm
   BP: 116/54(120) {73/21(32) - 180/56(120)} mmHg
   RR: 16 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 60 kg
             Total In:
                                                                  6,487 mL
                                                                    574 mL
   PO:
             TF:
   IVF:
                                                                  2,987 mL
                                                                    574 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    400 mL
   Urine:
                                                                  1,745 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,742 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 496 (490 - 629) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 66
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.39/42/148/28/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 296
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Patient with no sedation in place
patient does respond to
   voice commands with upper and lower extremities.  She does have
   isolated clonus of RLE which is in the setting of bilateral brisk
   reflexes at patellar tendon
   Labs / Radiology
   11.3 g/dL
   144 K/uL
   223 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.1 mEq/L
   11 mg/dL
   110 mEq/L
   143 mEq/L
   33.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2192-2-16**]  05:42 AM
                             [**2192-2-16**]  06:59 PM
                             [**2192-2-17**]  03:22 AM
   WBC
   12.2
   11.0
   Hct
   37.2
   33.4
   Plt
   179
   144
   Cr
   0.7
   0.6
   TropT
   <0.01
   TCO2
   26
   Glucose
   291
   229
   223
   Other labs: PT / PTT / INR:12.5/32.2/1.1, CK / CKMB /
   Troponin-T:378/6/<0.01, ALT / AST:127/79, Alk Phos / T Bili:71/0.4,
   Amylase / Lipase:61/31, Differential-Neuts:76.6 %, Lymph:15.9 %,
   Mono:7.0 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, LDH:209 IU/L, Ca++:8.2
   mg/dL, Mg++:1.7 mg/dL, PO4:1.2 mg/dL
   Fluid analysis / Other labs: AG-5
   Imaging: MRI Head--No abnormalities seen on read of MRI
   CXR--none new--improved aeration following intubation
   Assessment and Plan
   62 yo female with admission with COMA.  She has a history of substance
   abuse but no ingestion suspected, reported or found.  She does have
   bipolar diagnosis but no evidence of recent trauma or worsening of
   underlying mental health disease.  No recent prodrome of infection, no
   fever and no evidence of meningitis.  We have concern for possible
   seizure--with non-convulsive status or dense post ictal state driving
   exam.
   1)Altered Mental Status-Differential above
she has improved through to
   this morning
   -Dilantin load in place
   -EEG for 24 hours today.
   -Will move towards extubation today to faciliate better examination
   going forward.
   2)Respiratory Failure-
   -This was secondary to altered mental status and aspiration event with
   hypoxemia.  Much of the infiltrate was resolved in the setting of
   intubation but with some persistence
   -We have minimal secretions at this time
   -Will continue antibiotics that were started in the setting of concern
   for meningitis as we are now treating pneumonia
   -Move to SBT today and extubation with patient able to respond to
   commands
   3) HYPOTENSION (NOT SHOCK)
   -Levophed to look to wean to off today and have minimal dose
   -Will continue with wean
   -[**Month (only) 8**] see improvement with resolution of active pneumonitis and will
   continue with antibiotics
   ICU Care
   Nutrition:
   NPO this morning
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-2-16**] 04:18 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2192-02-18 07:14:00 Physician Resident Progress Note
Chief Complaint: CC: Unresponsive
   [**Hospital Unit Name 4**] Admission: Unresponsive
   24 Hour Events:
   - Dilantin level 14.7, corrected 21, dose kept the same per neuro
   - extubated
   - EEG pending
   - MRI/MRA final read : suboptimal [**1-3**] motion, no [**Known lastname **] infarction or
   mass, chronic small vessel ischemic changes, incidental finding of
   cavum septum pellucidum et vergae
   - cx, no growth
   - d/c groin line by sunday
   - off pressors as of noon, sbp's in the 150's at 6pm
   - verbal, communicative this afternoon
 INVASIVE VENTILATION - STOP [**2192-2-17**] 11:56 AM
 MULTI LUMEN - STOP [**2192-2-17**] 06:00 PM
   Allergies:
   Clindamycin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-2-17**] 08:05 AM
   Vancomycin - [**2192-2-17**] 07:30 PM
   Infusions:
   Other ICU medications:
   Dilantin - [**2192-2-18**] 04:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-2-18**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**93**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.5
C (99.5
   HR: 85 (68 - 91) bpm
   BP: 121/63(74) {80/37(46) - 156/84(120)} mmHg
   RR: 25 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.3 kg (admission): 60 kg
   Height: 60 Inch
             Total In:
                                                                  1,270 mL
                                                                    361 mL
   PO:
             TF:
   IVF:
                                                                  1,270 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                  1,080 mL
   Urine:
                                                                  1,270 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -717 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 466 (366 - 496) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 2%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   131 K/uL
   11.7 g/dL
   137 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.1 mEq/L
   7 mg/dL
   108 mEq/L
   148 mEq/L
   35.0 %
   9.6 K/uL
        [image002.gif]
   Ca++:8.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.8 mg/dL
                             [**2192-2-16**]  05:42 AM
                             [**2192-2-16**]  06:59 PM
                             [**2192-2-17**]  03:22 AM
                             [**2192-2-18**]  03:38 AM
   WBC
   12.2
   11.0
   9.6
   Hct
   37.2
   33.4
   35.0
   Plt
   179
   144
   131
   Cr
   0.7
   0.6
   0.4
   TropT
   <0.01
   TCO2
   26
   Glucose
   291
   229
   223
   137
   Other labs:
   PT / PTT / INR:12.5/32.2/1.1,
   CK / CKMB / Troponin-T:378/6/<0.01,
   ALT / AST:127/79,
   Alk Phos / T Bili:71/0.4,
   Amylase / Lipase:61/31,
   Differential-Neuts:76.6 %, Lymph:15.9 %, Mono:7.0 %, Eos:0.1 %,
   Lactic Acid:1.8 mmol/L,
   Albumin:2.9 g/dL,
   LDH:209 IU/L,
   Imaging: CXR AP portable [**2-17**]:
   Interval removal of endotracheal and nasogastric tubes. Recently
   reported interstitial edema has nearly resolved, and asymmetrical
   opacities in
   the right lung present previously has nearly cleared. Right pleural
   effusion
   has decreased in size. Small left effusion appears slightly larger, but
   positional differences limit comparison.
   Microbiology: [**2192-2-16**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
   [**2192-2-16**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2192-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2192-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
   Ms. [**Known lastname **] is a 62 year old female with diabetes, HTN, HL, bipolar
   disorder with multiple prior suicide attempts from medication overdoses
   who is admitted with altered mental status.
   .
   #.  Altered mental status.  Unclear etiology.  MRI showed no infarct.
   LP results from OSH unremarkable.  All tox screens negative.  Hepatitis
   C positive, but ammonia normal. Currently undergoing 24-hr EEG with
   dilantin load for possible intermittent seizures. As she is now
   intubated, her MS exam is somewhat limited.
   - neuro recs
   - f/u EEG
   - f/u culture data
   - empiric antibiotics for now
   .
   #.  Aspiration Pneumonia/respiratory status
 Patient had an aspiration
   event yesterday, and was intubated for airway safety.  Spiked T of
   100.4 yesterday afternoon, afebrile since.  Currenly, lungs are clear,
   mental status improving
   -          repeat CXR
   -          SBT, extubate if her mental status improves
   -          Consider either stopping antibiotics if CXR clear, or
   broadening spectrum to cover anaerobes (given aspiration event) &/or
   pseudomonas if she deteriorates.
   .
   #.  Hypotension.  Differential for hypotension is hypovolemic versus
   septic.  She is positive 4L since admission, still on levophed.  Good
   UOP.
   - IVF boluses
   - wean levophed as tolerated
   - follow urine output
   - hold lisinopril
   .
   #.  Hyperglycemia.  Patient presented with hyperglycemia to 450 which
   has responded to insulin.  No evidence of DKA.
   - HISS
   - follow fingersticks
   - hold actos, glyburide, metformin
   .
   5.  Bipolar disorder.  Patient has a history of bipolar disorder, on
   disability.  Multiple prior overdoses with medications.
   - hold lexapro
   .
   6.  Hepatitis C.  Patient with ALT of 142, AST 83, with normal
   albumin.  INR normal at OSH.  Per son, this is a recent diagnosis.
   LFTs stable yesterday.  Ammonia normal. No evidence of cirrhosis by
   labs or on exam.
   - trend LFTs
   .
   7.  Hyperlipidemia.
   - hold simvastatin given elevated LFTs and inability to take POs
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-2-17**] 06:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2192-02-18 11:15:00 Physician Attending Progress Note
Chief Complaint: Coma
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2192-2-17**] 11:56 AM
   Continues extubated
   Continues off pressors
   More awake
   EEG ongoing
 MULTI LUMEN - STOP [**2192-2-17**] 06:00 PM
   MRI head limited by motion artifact but no obvious CVA/mass
   Loaded with dilantin
                        Patient unable to provide history: Unresponsive
   Allergies:
   Clindamycin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-2-18**] 08:35 AM
   Vancomycin - [**2192-2-18**] 09:35 AM
   Infusions:
   Other ICU medications:
   Dilantin - [**2192-2-18**] 04:02 AM
   Pantoprazole (Protonix) - [**2192-2-18**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2192-2-18**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**93**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 84 (71 - 93) bpm
   BP: 138/55(74) {80/37(46) - 156/84(91)} mmHg
   RR: 24 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.3 kg (admission): 60 kg
   Height: 60 Inch
             Total In:
                                                                  1,270 mL
                                                                  1,248 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  1,270 mL
                                                                  1,008 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                  1,240 mL
   Urine:
                                                                  1,270 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 466 (366 - 466) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 2%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: No(t) Overweight / Obese, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name, place ([**Hospital3 389**]), Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   131 K/uL
   137 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.1 mEq/L
   7 mg/dL
   108 mEq/L
   148 mEq/L
   35.0 %
   9.6 K/uL
        [image002.jpg]
                             [**2192-2-16**]  05:42 AM
                             [**2192-2-16**]  06:59 PM
                             [**2192-2-17**]  03:22 AM
                             [**2192-2-18**]  03:38 AM
   WBC
   12.2
   11.0
   9.6
   Hct
   37.2
   33.4
   35.0
   Plt
   179
   144
   131
   Cr
   0.7
   0.6
   0.4
   TropT
   <0.01
   TCO2
   26
   Glucose
   291
   229
   223
   137
   Other labs: PT / PTT / INR:12.5/32.2/1.1, CK / CKMB /
   Troponin-T:378/6/<0.01, ALT / AST:127/79, Alk Phos / T Bili:71/0.4,
   Amylase / Lipase:61/31, Differential-Neuts:76.6 %, Lymph:15.9 %,
   Mono:7.0 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, Albumin:2.9 g/dL,
   LDH:209 IU/L, Ca++:8.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Microbiology: No new culture data
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH):  Good sats on 2 L nasal cannula.  CXR
   improved in right base raising the question of aspiration pneumonitis
   given rapid clearing, ?blunting left CPA.  Will repeat CXR.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Unclear etiology.  EEG being
   done to evaluate for seizure.  On dilantin.  Given history of bipolar
   disorder and prior history of suicide attempts, will also consult
   psychiatry.  Stable for transfer to the floor albeit will need a sitter
   per nursing.
 HYPOTENSION (NOT SHOCK):  Unclear etiology, empirically covered with
   levophed, vanco/ceftriaxone, off pressors since yesterday morning.  No
   new culture data.  Check UA.  If outside hosptial culutres also
   negative would discontinue antibiotics.
 HYPOKALEMIA:  Repleted.  Following serial lytes.  Also will give Mg.
 HYPERNATREMIA:  Calculate free water deficit.  Appears euvolemic on
   exam, will replace free water and follow electrolytes.
 DM:  On insulin sliding scale.
   Else agree with detailed assessment and plan as per medical ICU
   resident's note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-2-17**] 06:30 PM
   18 Gauge - [**2192-2-18**] 08:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2192-02-19 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - lamictal level 35 form OSH (upper limit of normal is 25)
   - patient told son she [**Name2 (NI) 10460**] pills
   - psych consulted for overdose and agitation; they recommended: haldol
   for agitation, 1:1 sitter, plan for [**Hospital1 255**] 4 when stable
   - increasingly agitated
   - neuro recs: EEG preliminarily negative, can d/c dilantin
   - D5W for hypernatremia --> hypernatremia resolved
   - Abx stopped given negative culture data
   - CXR improved
   - called out, but did not get bed
   Allergies:
   Clindamycin
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-2-18**] 08:35 AM
   Vancomycin - [**2192-2-18**] 09:35 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-2-18**] 08:35 AM
   Dilantin - [**2192-2-18**] 04:00 PM
   Haloperidol (Haldol) - [**2192-2-18**] 09:45 PM
   Heparin Sodium (Prophylaxis) - [**2192-2-19**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-2-19**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**93**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 66 (66 - 94) bpm
   BP: 108/42(59) {63/37(25) - 146/77(87)} mmHg
   RR: 16 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.3 kg (admission): 60 kg
   Height: 60 Inch
             Total In:
                                                                  1,860 mL
                                                                    417 mL
   PO:
                                                                    480 mL
                                                                    340 mL
   TF:
   IVF:
                                                                  1,140 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    305 mL
   Urine:
                                                                  2,075 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -215 mL
                                                                    112 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Clubbing
   Labs / Radiology
   124 K/uL
   11.5 g/dL
   263 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.2 mEq/L
   8 mg/dL
   99 mEq/L
   133 mEq/L
   34.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2192-2-16**]  05:42 AM
                             [**2192-2-16**]  06:59 PM
                             [**2192-2-17**]  03:22 AM
                             [**2192-2-18**]  03:38 AM
                             [**2192-2-18**]  09:04 PM
                             [**2192-2-19**]  05:45 AM
   WBC
   12.2
   11.0
   9.6
   6.8
   Hct
   37.2
   33.4
   35.0
   34.6
   Plt
   179
   144
   131
   124
   Cr
   0.7
   0.6
   0.4
   0.5
   0.4
   TropT
   <0.01
   TCO2
   26
   Glucose
   291
   229
   223
   137
   198
   263
   Other labs: PT / PTT / INR:12.5/32.2/1.1, CK / CKMB /
   Troponin-T:378/6/<0.01, ALT / AST:127/79, Alk Phos / T Bili:71/0.4,
   Amylase / Lipase:61/31, Differential-Neuts:76.6 %, Lymph:15.9 %,
   Mono:7.0 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, Albumin:2.9 g/dL,
   LDH:209 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: no sig interval change.
   Microbiology: Blood and Urine cltx pending.
   Sputum: resp flora.
   Assessment and Plan
   Ms. [**Known lastname **] is a 62 year old female with diabetes, HTN, HL, bipolar
   disorder with multiple prior suicide attempts from medication overdoses
   who is admitted with altered mental status.
   .
   #.  Altered mental status.  Given supratherapeutic lamictal level, and
   h/o suicide attempts, ingestion is most likely etiology.  MRI showed no
   infarct.  LP results from OSH unremarkable.  All tox screens negative.
   Hepatitis C positive, but ammonia normal. Currently undergoing 24-hr
   EEG with dilantin load for possible intermittent seizures.  Now waking
   up but with agitation. Getting prn haldol.  Appreciate neurology input.
   - neuro recs
   - f/u culture data
   - f/u dilantin level
   - d/cd antibiotics yesterday
   .
   #.  Aspiration Pneumonia/respiratory status
 Lungs clear by exam this
   am and CXR.  No leukocytosis.
   .
   #.  Hypotension.  Resolved
   .
   #.  Hyperglycemia.  Patient presented with hyperglycemia to 450 which
   has responded to insulin.  No evidence of DKA.
   - HISS
   - follow fingersticks
   - hold actos, glyburide, metformin
   .
   5.  Bipolar disorder.  Patient has a history of bipolar disorder, on
   disability.  Multiple prior overdoses with medications.
   - hold lexapro
   - psychiatry consult recs 1:1 sitter given likelihood of suicide
   attempt. Pt will need psych admit once medically stable.
   - haldol prn
   .
   6.  Hepatitis C.  Patient with ALT of 142, AST 83, with normal
   albumin.  INR normal at OSH.  Per son, this is a recent diagnosis.
   LFTs stable yesterday.  Ammonia normal. No evidence of cirrhosis by
   labs or on exam.
   - trend LFTs
   .
   7.  Hyperlipidemia.
   - hold simvastatin given elevated LFTs and inability to take POs
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-2-17**] 06:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: Called out to floor.
   ------ Protected Section ------
   ICU ATTENDING ADDENDUM
   I saw and examined the patient with the medical ICU residents, the
   assessment and plan was discussed and is detailed above.  I would add
   and emphasize the following.
   Patient more alert this am, pleasant.  Didn
t recall meeting us from
   yesterday, knows she is in the [**Hospital1 5**].  Denies pain, SOB.
   Lungs CTA Abdomen soft, good BS No edema
   As above, etiology of here unresponsiveness likely secondary to
   lamictal overdose.  Appreciate input from neurology and psychiatry
   services.  Preliminary read on EEG is not seizure activity, will
   confirm with neuro and discontinue dilantin.  Agree with sitter
   awaiting inpatient  placement for psychiatric care.
   Time spent:  25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2192-2-19**] 12:35 ------